US08580798B2
4-{3-fluoro-4-[3-(6-tert-butylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carboxylic acid methylamide
A solution of 6-amino-4-t-butylpyrimidine (20.0 mg; 0.13 mmol), triphosgene (14.52 mg; 0.05 mmol) and diisopropylethylamine (20.51 mg; 0.16 mmol) in THF (0.7 mL) was heated at 70° C. for 4 h. A solution of 4-(4-amino-3-fluoro-phenoxy)-pyridine-2-carboxylic acid methylamide (34.5 mg; 0.13 mmol) in DMF (1.5 mL) was then added and the reaction mixture was heated at 70° C. for another 8 h, then extracted between EtOAc and saturated aqueous NaHCO3. The organic layer was dried and evaporated under reduced pressure to give a crude oil that was purified via HPLC to give the title compound (14 mg, 9%). 1H-NMR (CD3OD) δ 8.73 (s, 1H), 8.48 (d, J=4.0 Hz, 1H), 8.29 (t, J=4.0 Hz, 1H), 7.57 (d, J=4.0 Hz, 1H), 7.58-7.08 (m, 3H), 7.01 (s, 1H), 2.94 (s, 3H), 1.36 (s, 9H). LC-MS m/z 439 [M+H]+.

reactant | 6-amino-4-t-butylpyrimidine | 0.13 mmol, 20.0 mg | NC1=CC(=NC=N1)C(C)(C)C | C8H13N3
reactant | triphosgene | 0.05 mmol, 14.52 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethylamine | 0.16 mmol, 20.51 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(4-amino-3-fluoro-phenoxy)-pyridine-2-carboxylic acid methylamide | 0.13 mmol, 34.5 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)F | C13H12FN3O2
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-{3-fluoro-4-[3-(6-tert-butylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carboxylic acid methylamide | 14 mg, 9% | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=NC=NC(=C1)C(C)(C)C)F | C22H23FN6O3
